US04886806
6 g of flavone-3-carboxylic acid was converted into the mixed anhydride with 5.5 g 4-dimethylaminopyridine and 2.2 ml methanesulfonyl chloride in 50 ml absolute dichloromethane under the conditions described in Example 1 (a), and the mixed anhydride was then reacted with 4.42 ml N-benzylpiperazine as described in Example 1 (b). The working up of the reaction mixture and the purification of the resulting crude title compound were carried out in the manner described in Example 1 (b). 9 g of 3-[(4-benzylpiperazin-1-yl)-carbonyl]flavone were obtained.

reactant | flavone-3-carboxylic acid | 6 g | O1C(=C(C(=O)C2=CC=CC=C12)C(=O)O)C1=CC=CC=C1 | C16H10O4
reactant | methanesulfonyl chloride | 2.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-benzylpiperazine | 4.42 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
catalyst | 4-dimethylaminopyridine | 5.5 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[(4-benzylpiperazin-1-yl)-carbonyl]flavone | 9 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)C1=C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C27H24N2O3
